US06642228B1
4-(2-Naphthyl)-1-(3-piperidylpropyl)piperidine Hydrochloride
Using 4-(2-naphthyl)piperidine (167 mg, 0.67 mmol) and 1-(3-chloropropyl)piperidine hydrochloride (198 mg, 1.0 mmol) instead of 4-(3-indolyl)piperidine and 3-dimethylaminopropyl chloride hydrochloride respectively, reaction, extraction, and concentration were carried out in the same procedure as Example 4. The resulting crude product was purified by column chromatography on a silica gel (silica gel NH-DM 1020 produced by Fuji Silysia Chemical Ltd., eluent; hexane:chloroform=1:1) to afford a free form (187 mg) of the title compound as a yellow viscous oil. After adding hydrochloric acid/methanol to a solution of the free form in methanol, the mixture was concentrated and was then recrystallized from ethanol to afford the title compound (177 mg, yield: 64%) as white crystals.

reactant | 4-(2-naphthyl)piperidine | 0.67 mmol, 167 mg | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
reactant | 1-(3-chloropropyl)piperidine hydrochloride | 1.0 mmol, 198 mg | Cl.ClCCCN1CCCCC1
reactant | 3-dimethylaminopropyl chloride hydrochloride | Cl.CN(CCCCl)C
product | 4-(2-Naphthyl)-1-(3-piperidylpropyl)piperidine Hydrochloride | 187 mg | Cl.C1=C(C=CC2=CC=CC=C12)C1CCN(CC1)CCCC1CNCCC1 | InChI=1S/C23H32N2.ClH/c1-2-8-22-17-23(10-9-20(22)7-1)21-11-15-25(16-12-21)14-4-6-19-5-3-13-24-18-19;/h1-2,7-10,17,19,21,24H,3-6,11-16,18H2;1H
